US05684017
5,7-Dichloro-2-[2-(t-butoxycarbonylamino)benzoyl]-1,4-dihydroquinol-4-one
Combine 5,7-dichloro-2-[2-(t-butoxycarbonylamino) benzoyl]-4-benzyloxyquinoline (4 mmol) and trifluoroacetic acid (55 mL) and heat to 80° C. After 4 hours evaporate the reaction mixture in vacuo to give a residue. Add dichloromethane and evaporate several times to completely remove residual trifluoroacetic acid. Dissolve the crude reaction mixture in dichloromethane (20 mL) and add di-t-butyl dicarbonate (4 mmol). Allow to stir for 24 hours. Evaporate in vacuo. Chromatograph on silica gel to give the title compound.

reactant | 5,7-dichloro-2-[2-(t-butoxycarbonylamino) benzoyl]-4-benzyloxyquinoline | 4 mmol | ClC1=C2C(=CC(=NC2=CC(=C1)Cl)C(C1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)OCC1=CC=CC=C1 | C28H24Cl2N2O4
reactant | trifluoroacetic acid | 55 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | di-t-butyl dicarbonate | 4 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 5,7-Dichloro-2-[2-(t-butoxycarbonylamino)benzoyl]-1,4-dihydroquinol-4-one | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(C1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C21H18Cl2N2O4
